US07705111B2
To a solution of 2,5-dibromo-3-iodothiophene (3.52 grams, 9.57 mmol) and 1-ethynyl-4-pentylbenzene (1.65 grams, 9.57 mmol) in triethylamine (50 milliliters) were added dichlorobis(triphenylphosphine)palladium (II) (0.28 gram, 0.4 mmol) and copper(I) iodide (38 milligrams, 0.2 mmol) at 0° C. under argon. The resulting reaction mixture was stirred at 0° C. for 6 hours and at room temperature for 20 hours under argon. After evaporation of the solvent, the product obtained was purified by column chromatography on a silica gel using hexane as eluent. 2,5-Dibromo-3-(4-pentylphenyl)ethynylthiophene was obtained as a colorless liquid was. Yield: 3 grams (73 percent).

reactant | 2,5-dibromo-3-iodothiophene | 9.57 mmol, 3.52 grams | BrC=1SC(=CC1I)Br | C4HBr2IS
reactant | 1-ethynyl-4-pentylbenzene | 9.57 mmol, 1.65 grams | C(#C)C1=CC=C(C=C1)CCCCC | C13H16
solvent | triethylamine | 50 milliliters | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.4 mmol, 0.28 gram | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.2 mmol, 38 milligrams | [Cu]I
product | 2,5-Dibromo-3-(4-pentylphenyl)ethynylthiophene | BrC=1SC(=CC1C#CC1=CC=C(C=C1)CCCCC)Br | C17H16Br2S
